US05929085
(b) N,N-Diethyl-2-(phenylmethoxy)carbonyl-7-nitro-1,2,3,4-tetrahydroisoquinolin-1-acetamide
To a stirred solution of 2-(phenylmethoxy)carbonyl-7-nitro-1,2,3,4-tetrahydroisoquinolin-1-acetic acid (5.0 g, 13.5 mmols), HOBT (1.8 g, 13.5 mmols) and TBTU (4.3 g, 13.5 mmols) in DMF (50 ml) was added diethylamine (13.5 mmols). To this was added slowly diisopropylethylamine (7.0 ml) and the reaction was then stirred for 48 h. The reaction was then poured into saturated NaCl and the aqueous phase then extracted with ethyl acetate (3×100 ml). The solvent was evaporated to leave a crude oil which was used as such.

reactant | 2-(phenylmethoxy)carbonyl-7-nitro-1,2,3,4-tetrahydroisoquinolin-1-acetic acid | 13.5 mmols, 5.0 g | C1(=CC=CC=C1)COC(=O)N1C(C2=CC(=CC=C2CC1)[N+](=O)[O-])CC(=O)O | C19H18N2O6
reactant | HOBT | 13.5 mmols, 1.8 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | TBTU | 13.5 mmols, 4.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diethylamine | 13.5 mmols | C(C)NCC | C4H11N
reactant | diisopropylethylamine | 7.0 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N,N-Diethyl-2-(phenylmethoxy)carbonyl-7-nitro-1,2,3,4-tetrahydroisoquinolin-1-acetamide | C(C)N(C(CC1N(CCC2=CC=C(C=C12)[N+](=O)[O-])C(=O)OCC1=CC=CC=C1)=O)CC | C23H27N3O5
